US03996344
A solution of 6.7 gm. of d-amphetamine in 25 ml. of anhydrous benzene is cooled 0° C. To it is added, dropwise, 11 gm. of trifluoroacetic anhydride. The reaction mixture is stirred for one hour, without cooling, and then refluxed for 3 hours. It is allowed to cool and the solvent is removed under reduced pressure. Trituration of the residual oil with ether induces crystallization. Recrystallizaton from acetone ether yields pure N-trifluoroacetylamphetamine with a melting point of 82°-83° C.

reactant | d-amphetamine | C[C@@H](CC=1C=CC=CC1)N | C9H13N
reactant | trifluoroacetic anhydride | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | benzene | C1=CC=CC=C1 | C6H6
product | N-trifluoroacetylamphetamine | FC(C(=O)NC(C)CC1=CC=CC=C1)(F)F | C11H12F3NO
